US07476759B2
Benzyl 4-amino-2-(4-hydroxyphenyl)-4-oxobutanoate
Di-iso-propylethylamine (1.03 g, 1.40 mL, 8.00 mmol) was added in one portion to a stirred suspension of 4-(benzyloxy)-3-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-4-oxobutanoic acid (0.83 g, 2.0 mmol), ammonium chloride (0.107 g, 2.00 mmol) and N-[(Dimethylamino)-1H-1,2,3-triazolo[4,5-b]pyridin-1-ylmethylene]-N-methylmethanaminium hexafluorophosphate N-oxide (837 mg, 2.20 mmol) in dimethylformamide (15 mL) at room temperature under nitrogen. After stirring for 2 h the volatiles were evaporated and the residue partitioned between dichloromethane (50 mL) and aqueous hydrochloric acid solution (1.0 M; 50 mL). The resulting bi-phasic mixture was stirred at room temperature for 30 min after which the phases were separated and the aqueous layer washed with dichloromethane (2×50 mL). The organic layers were combined, dried (magnesium sulfate) and evaporated to dryness. The residue was chromatographed on silica gel (10% methanol: dichloromethane) to give the title compound as a white solid (0.45 g, 60%). LC/MS: 2.55 min; z/e 300, calcd (M+1) 300. 1H NMR (400 MHz: CDCl3): 7.25 (3H), 7.15 (2H), 7.10 (2H), 6.75 (2H), 6.35 (1H), 6.65 (1H), 5.45 (1H), 5.10 (2H), 4.10 (1H), 3.05 (1H), 2.55 (1H).

reactant | Di-iso-propylethylamine | 8.00 mmol, 1.40 mL, 1.03 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(benzyloxy)-3-(4-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-4-oxobutanoic acid | 2.0 mmol, 0.83 g | C(C1=CC=CC=C1)OC(C(CC(=O)O)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)=O | C23H30O5Si
reactant | ammonium chloride | 2.00 mmol, 0.107 g | [Cl-].[NH4+]
reactant | N-[(Dimethylamino)-1H-1,2,3-triazolo[4,5-b]pyridin-1-ylmethylene]-N-methylmethanaminium hexafluorophosphate N-oxide | 2.20 mmol, 837 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | Benzyl 4-amino-2-(4-hydroxyphenyl)-4-oxobutanoate | 0.45 g, 60% | NC(CC(C(=O)OCC1=CC=CC=C1)C1=CC=C(C=C1)O)=O | C17H17NO4
